US04665206
A mixture of 5,6-dimethoxybenzo[b]thiophene-2-carboxaldehyde (8.14 g) and cyanomethylene triphenylphosphorane (22.06 g) in dry toluene (270 ml) was stirred and heated to reflux for 1 hour. The reaction mixture was then evaporated to dryness and the residue was dissolved in a mixture of dichloromethane (50 ml) and toluene (50 ml) and passed through a column of coarse silica (0.2-0.5 mm, Merck, 600 g). The column eluted with toluene:ethyl acetate (4:1 v/v). The appropriate fractions were combined and evaporated to dryness and the residue was crystallised from dichloromethane:diethyl ether to give pure (E)-3-(5,6-dimethoxy-benzo[b]thiophene-2-yl)-2-propenenitrile (7.56 g), m.p. 154°-158° C.

reactant | 5,6-dimethoxybenzo[b]thiophene-2-carboxaldehyde | 8.14 g | COC1=CC2=C(SC(=C2)C=O)C=C1OC | C11H10O3S
reactant | cyanomethylene triphenylphosphorane | 22.06 g | C(#N)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16NP
solvent | toluene | 270 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-(5,6-dimethoxy-benzo[b]thiophene-2-yl)-2-propenenitrile | 7.56 g | COC1=CC2=C(SC(=C2)/C=C/C#N)C=C1OC | C13H11NO2S
